US09193723B2
tert-butyl 3-(5-formylthiazol-2-yl)pyrrolidine-1-carboxylate
tert-Butyl 3-carbamothioylpyrrolidine-1-carboxylate (5 g, 21.71 mmol), 2-chloromalonaldehyde (3.70 g, 34.7 mmol) and magnesium carbonate (1.830 g, 21.71 mmol) were combined in dioxane (100 ml). The mixture was heated to 60° C. for 3 hours, stirred overnight at room temperature and then filtered through a pad of diatomaceous earth, rinsing with dichloromethane. The filtrate was concentrated in vacuo and then purified by normal phase chromatography to provide the title compound.

reactant | tert-Butyl 3-carbamothioylpyrrolidine-1-carboxylate | 21.71 mmol, 5 g | C(N)(=S)C1CN(CC1)C(=O)OC(C)(C)C | C10H18N2O2S
reactant | 2-chloromalonaldehyde | 34.7 mmol, 3.70 g | ClC(C=O)C=O | C3H3ClO2
reactant | magnesium carbonate | 21.71 mmol, 1.830 g | C([O-])([O-])=O.[Mg+2]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 3-(5-formylthiazol-2-yl)pyrrolidine-1-carboxylate | C(=O)C1=CN=C(S1)C1CN(CC1)C(=O)OC(C)(C)C | C13H18N2O3S
